US04186199
1.65 g NaBH4 is added portionwise over 6 minutes to rapidly stirred ice cold slurry of 4.0 g 4-chloro-1,2-dihydro-6-phenylindolo[1,7-ab][1,5]benzodiazepine hydrochloride in 50 ml absolute ethanol under N2. After 70 minutes at 0° C., water is added dropwise over 10 minutes and the reaction mixture is concentrated to leave an oil. The resulting oil is dissolved in CHCl3, washed with water, brine, dried over Na2SO4, and concentrated to give 4-chloro-6-phenyl-1,2,6,7-tetrahydroindolo[1,7-ab][1,5]benzodiazepine, m.p. 192.5°-194.5° C.

reactant | NaBH4 | 1.65 g | [BH4-].[Na+]
reactant | 4-chloro-1,2-dihydro-6-phenylindolo[1,7-ab][1,5]benzodiazepine hydrochloride | 4.0 g | Cl.ClC=1C=C2CCN3C2=C(C(=NC2=C3C=CC=C2)C2=CC=CC=C2)C1
reactant | water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-6-phenyl-1,2,6,7-tetrahydroindolo[1,7-ab][1,5]benzodiazepine | ClC=1C=C2CCN3C2=C(C(NC2=C3C=CC=C2)C2=CC=CC=C2)C1 | C21H17ClN2
